US06573388B1
To a magnetically stirred solution of 2(S)-t-butyldimetylsilyloxy-3(R)-(t-butyloxycarbonyl)amino-1,4-dichlorobutane (375.4 mg, 1.008 mmol) in THF (10 mL) was added NaH slowly at 0° C. under N2. After 5 h, the reaction mixture was slowly added to sat aq ammonium chloride solution (40 mL) and ice (20 g). The resulting solution was extracted with EtOAc (60 mL 4). The combined organic layers were washed with brine (50 mL), dried over anhydrous magnesium sulfate, filtered, concentrated and column chromatographed (10% EtOAc in n-Hex) to provide N-t-butyloxycarbonyl-2(R)-(1(S)-t-butyldimetylsilyloxy-2-chloroethyl)aziridine (339.5 mg) as a colorless oil.

reactant | 2(S)-t-butyldimetylsilyloxy-3(R)-(t-butyloxycarbonyl)amino-1,4-dichlorobutane | 1.008 mmol, 375.4 mg | [Si](C)(C)(C(C)(C)C)O[C@H](CCl)[C@H](CCl)NC(=O)OC(C)(C)C | C15H31Cl2NO3Si
reactant | NaH | [H-].[Na+]
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-t-butyloxycarbonyl-2(R)-(1(S)-t-butyldimetylsilyloxy-2-chloroethyl)aziridine | 339.5 mg, Yield: 99% | C(C)(C)(C)OC(=O)N1[C@H](C1)[C@@H](CCl)O[Si](C)(C)C(C)(C)C | C15H30ClNO3Si
